US06511997B1
Synthesis of 5-(4-fluorophenyl)-4-(4-pyridyl)-3-trifluoroacetylaminopyrazole
254 mg of 3-amino-5-(4-fluorophenyl)-4-(4-pyridyl)pyrazole and 0.30 ml of triethylamine were dissolved in 20 ml of tetrahydrofuran. While this solution was being cooled with ice, 400 mg of trifluoroacetic anhydride was added thereto with stirring. The resulting mixture was stirred at room temperature for 2 hours. After the addition of water, the reaction mixture was extracted with chloroform. After the organic layer was dried over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure. The resulting residue was purified by column chromatography using 50 g of silica gel [with an elution solvent comprising chloroform-methanol (30:1)]. Thus, 220 mg (63% yield) of the title compound was obtained as colorless crystals.

reactant | 3-amino-5-(4-fluorophenyl)-4-(4-pyridyl)pyrazole | 254 mg | NC1=NNC(=C1C1=CC=NC=C1)C1=CC=C(C=C1)F | C14H11FN4
reactant | triethylamine | 0.30 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 400 mg | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | water | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 5-(4-fluorophenyl)-4-(4-pyridyl)-3-trifluoroacetylaminopyrazole | 220 mg, 63% yield | FC1=CC=C(C=C1)C1=C(C(=NN1)NC(C(F)(F)F)=O)C1=CC=NC=C1 | C16H10F4N4O
